US04551532
3,6-Dioxaoctadecyl 2-pyridazinioethyl phosphate
3,6-Dioxaoctadecyl 2-bromoethyl phosphate (3.0 g) and pyridazine (5 g) are dissolved in toluene (60 ml) and warmed at 60° C. The solvent is distilled off, silver carbonate and methanol are added, and the mixture is refluxed. The insolubles are filtered off, the filtrate is concentrated to dryness, and the residue is purified by silica gel chromatography (developing solvent: chloroform-methanol-water) to give 1.2 g of the title compound.

reactant | 3,6-Dioxaoctadecyl 2-bromoethyl phosphate | 3.0 g | P(=O)(OCCOCCOCCCCCCCCCCCC)(OCCBr)[O-]
reactant | pyridazine | 5 g | N1=NC=CC=C1 | C4H4N2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 3,6-Dioxaoctadecyl 2-pyridazinioethyl phosphate | 1.2 g | P(=O)(OCCOCCOCCCCCCCCCCCC)(OCC[N+]1=NC=CC=C1)[O-] | C22H41N2O6P
